US04663333
Preparation 3,5-dichloro-4-hydroxyphenyl thiocyanate
2,6-Dichlorophenol (100 g, 0.613 mole) and ammonium thiocyanate (102.73 g, 1.350 mole) were mixed in methanol and the solution cooled to 0° C. Chlorine gas was bubbled through the reaction, maintaining the temperature below 10° C. The solution turned a pale yellow color. The reaction was stirred for a total of 3 hours until acidic, at which time ammonia gas was bubbled through and the solution stirred for an additional three hours at 0° to 10° C. The reaction was poured into iced distilled water, and filtered, yielding approximately 20 g of a yellow solid which was dried overnight in vacuo. The filtrate was extracted with ethyl acetate, dried over magnesium sulfate and stripped to yield approximately 100 g of crude product. Following purification by chromatography, the material was taken up to 1 liter of toluene, charcoal added, filtered and recrystallized from hexane to yield 55.03 g of prioduct as a yellow solid. The structure was confirmed by NMR.

reactant | 2,6-Dichlorophenol | 0.613 mole, 100 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | ammonium thiocyanate | 1.350 mole, 102.73 g | [S-]C#N.[NH4+]
solvent | methanol | CO | CH4O
product | 3,5-dichloro-4-hydroxyphenyl thiocyanate | approximately 20 g | ClC=1C=C(C=C(C1O)Cl)SC#N | C7H3Cl2NOS
